US09422332B2
A solution of acetyl chloride (552 mg, 500 μL, 7.03 mmol, Eq: 24.2) in MeOH (2 mL) was added to a vial containing ((S)-1-{(S)-1-Cyclohexyl-2-[(S)-1-(2,6-di fluoro-phenylcarbamoyl)-1,3-dihydro-iso indol-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (174 mg, 291 μmol, Eq: 1.00). The mixture was stirred at RT for 1 h. The solvent was evaporated and the resulting solid was redissolved in MeCN (3 mL) and water (1 mL). It was lyophilized to give (S)-2-[(S)-2-Cyclohexyl-2-((S)-2-methylamino-propionylamino)-acetyl]-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide hydrochloride (148 mg) as a white powder, m/z=499 (M+H).

reactant | acetyl chloride | 7.03 mmol, 500 μL, 552 mg | C(C)(=O)Cl | C2H3ClO
reactant | ((S)-1-{(S)-1-Cyclohexyl-2-[(S)-1-(2,6-di fluoro-phenylcarbamoyl)-1,3-dihydro-iso indol-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 291 μmol, 174 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(=O)N1[C@@H](C2=CC=CC=C2C1)C(NC1=C(C=CC=C1F)F)=O)C1CCCCC1)=O)=O | C32H40F2N4O5
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-2-[(S)-2-Cyclohexyl-2-((S)-2-methylamino-propionylamino)-acetyl]-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide hydrochloride | 148 mg | Cl.FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C12)C([C@@H](NC([C@H](C)NC)=O)C1CCCCC1)=O | InChI=1S/C27H32F2N4O3.ClH/c1-16(30-2)25(34)31-22(17-9-4-3-5-10-17)27(36)33-15-18-11-6-7-12-19(18)24(33)26(35)32-23-20(28)13-8-14-21(23)29;/h6-8,11-14,16-17,22,24,30H,3-5,9-10,15H2,1-2H3,(H,31,34)(H,32,35);1H/t16-,22-,24-;/m0./s1
